* d:\Disco D\universita\magistrale\progettazione-low-power\progetti\progetto-1\ltspice\models\buffer\optimized\buffer_optimized.asc
M1 supplyL OUT OUTL supplyL EECMOSP l=l_min_pmos w={w_min_pmos*S_LOAD}
M2 OUTL OUT 0 0 EECMOSN l=l_min_nmos w={w_min_nmos*S_LOAD}
M3 supply N001 OUT supply EECMOSP l=l_min_pmos w={w_min_pmos*S2}
M4 OUT N001 0 0 EECMOSN l=l_min_nmos w={w_min_nmos*S2}
M5 supply OUTMIN N001 supply EECMOSP l=l_min_pmos w={w_min_pmos*S1}
M6 N001 OUTMIN 0 0 EECMOSN l=l_min_nmos w={w_min_nmos*S1}
M7 supply IN OUTMIN supply EECMOSP l=l_min_pmos w=w_min_pmos
M8 OUTMIN IN 0 0 EECMOSN l=l_min_nmos w=w_min_nmos
Vsupply supply 0 1
VsupplyL supplyL 0 1
Vin IN 0 PULSE(0 1 5n 10p 10p 5n 10n)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\giorg\AppData\Local\LTspice\lib\cmp\standard.mos
* - ### Buffer\n    - #### energy\n        - energy_connected_buffer `keep the entire circuit connected and carry out the measurements taking into account v(supply) and i(Vsupply) between 13 ns and 22 ns`\n    - #### delay\n        - ##### rise\n            - rise_delay_connected_buffer `keep the entire circuit connected and carry out the measurements taking into account v(IN) and V(OUT)`\n        - ##### fall\n            - fall_delay_connected_buffer `keep the entire circuit connected and carry out the measurements taking into account v(IN) and V(OUT)`
.backanno
.end
