* D:\Disco D\universita\magistrale\progettazione-low-power\progetti\progetto-1\ltspice\models\minimum-inverter\connected\minimum_inverter_connected.asc
M1 supply IN OUT supply EECMOSP l=l_min_pmos w=w_min_pmos
M2 OUT IN 0 0 EECMOSN l=l_min_nmos w=w_min_nmos
Vsupply supply 0 1
Vin IN 0 PULSE(0 1 5n 10p 10p 5n 10n)
M3 supplyL OUT N001 supplyL EECMOSP l=l_min_pmos w=w_min_pmos
M4 N001 OUT 0 0 EECMOSN l=l_min_nmos w=w_min_nmos
VsupplyL supplyL 0 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\giorg\AppData\Local\LTspice\lib\cmp\standard.mos
* - ### Minimum Inverter\n    - #### energy\n        - energy_connected_minimum_inverter `keep the entire circuit connected and carry out the measurements taking into account v(supply) and i(Vsupply) between 18 ns and 22 ns`\n        - energy_disconnected_minimum_inverter `disconnect the circuit at the OUT connection and carry out the measurements taking into account v(supply) and i(Vsupply) between 18 ns and 22 ns`\n    - #### delay\n        - ##### rise\n            - rise_delay_disconnected_minimum_inverter `disconnect the circuit at the OUT connection and carry out the measurements taking into account v(IN) and v(OUT)`\n            - rise_delay_connected_minimum_inverter `keep the entire circuit connected and carry out the measurements taking into account v(IN) and V(OUT)`\n        - ##### fall\n            - fall_delay_disconnected_minimum_inverter `disconnect the circuit at the OUT connection and carry out the measurements taking into account v(IN) and v(OUT)`\n            - fall_delay_connected_minimum_inverter `keep the entire circuit connected and carry out the measurements taking into account v(IN) and V(OUT)`
.backanno
.end
